US08283353B2
7-butyl-6-{[3,5-difluoro-2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of hydroxylammonium chloride (0.87 g), sodium hydrogen carbonate (1.4 g) and dimethyl sulfoxide (10 mL) was stirred at 40° C. for 30 min, 4′-{[7-butyl-4-(methoxymethyl)-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-3′,5′-difluorobiphenyl-2-carbonitrile (0.39 g) was added, and the mixture was stirred at 90° C. for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (10 mL). N,N′-Carbonyldiimidazole (0.16 g) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (0.14 mL) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by purification by silica gel column chromatography was dissolved in methylene chloride solution (10 mL), boron tribromide (1.0 M methylene chloride solution, 2.2 mL) was added, and the mixture was stirred at room temperature for 1 day. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography to give the title compound as colorless crystals (0.029 g, 7%).

reactant | hydroxylammonium chloride | 0.87 g | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 1.4 g | C(O)([O-])=O.[Na+]
reactant | 4′-{[7-butyl-4-(methoxymethyl)-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-3′,5′-difluorobiphenyl-2-carbonitrile | 0.39 g | C(CCC)C1=C(C(N(C=2N1N=CN2)COC)=O)CC2=C(C=C(C=C2F)C=2C(=CC=CC2)C#N)F | C25H23F2N5O2
reactant | boron tribromide | 1.0 M, 2.2 mL | B(Br)(Br)Br | BBr3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 7-butyl-6-{[3,5-difluoro-2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.029 g, 7% | C(CCC)C1=C(C(NC=2N1N=CN2)=O)CC2=C(C=C(C=C2F)C2=C(C=CC=C2)C2=NOC(N2)=O)F | C24H20F2N6O3
